US09212190B2
Into a 1 L round-bottom flask was placed a solution of cyclohex-2-en-1-one (15.00 g, 156.04 mmol, 1.00 equiv) in anhydrous THF (300 mL). 1,3-diethyl 2-bromopropanedioate (56.00 g, 234.25 mmol, 1.50 equiv), In powder (18.00 g, 1.00 equiv) and TMSCl (87.00 g, 800.81 mmol, 5.00 equiv) were added under nitrogen. The resulting solution was stirred for 30 min at room temperature and quenched by the addition of 200 mL of saturated aqueous sodium carbonate, extracted with 3×300 mL of ethyl acetate. The combined organic layers were washed with brine, dried over anhydrous sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:5) to give 1,3-diethyl 2-(3-oxocyclohexyl)propanedioate (28.50 g, 71%) as a yellow oil.

reactant | cyclohex-2-en-1-one | 156.04 mmol, 15.00 g, 1.00 equiv | C1(C=CCCC1)=O | C6H8O
reactant | 1,3-diethyl 2-bromopropanedioate | 234.25 mmol, 56.00 g, 1.50 equiv | BrC(C(=O)OCC)C(=O)OCC | C7H11BrO4
reactant | TMSCl | 800.81 mmol, 87.00 g, 5.00 equiv | C[Si](C)(C)Cl | C3H9ClSi
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 1,3-diethyl 2-(3-oxocyclohexyl)propanedioate | 28.50 g, 71% | O=C1CC(CCC1)C(C(=O)OCC)C(=O)OCC | C13H20O5
